US04032647
A mixture of 14.5 g (0.110 mole) of malonic acid mono ethyl ester, 19.0 g (0.220 mole) of magnesium methoxide and anhydrous tetrahydrofuran is heated with stirring under nitrogen allowing the methanol produced to distill off. To this mixture is added 45.0 g (0.105 mole) of N-[5-(9,12,15-octadecatrien-1-yloxy)-2-thenoyl]imidazole with stirring and cooling on an ice bath for four hours. The solvent is removed and the residue diluted with ice-concentrated HCl (1:1) solution to give 5-(9,12,15-octadecatrien-1-yloxy)then-2-oylacetic acid ethyl ester.

reactant | malonic acid mono ethyl ester | 0.110 mole, 14.5 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | magnesium methoxide | 0.220 mole, 19.0 g | C[O-].[Mg+2].C[O-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | N-[5-(9,12,15-octadecatrien-1-yloxy)-2-thenoyl]imidazole | 0.105 mole, 45.0 g | C(CCCCCCCC=CCC=CCC=CCC)OC1=CC=C(S1)C(=O)N1C=NC=C1 | C26H36N2O2S
solvent | methanol | CO | CH4O
product | 5-(9,12,15-octadecatrien-1-yloxy)then-2-oylacetic acid ethyl ester | C(C)OC(CC(=O)C1=CC=C(S1)OCCCCCCCCC=CCC=CCC=CCC)=O | C27H40O4S
